simulator lang=spice

.lib '../../tech_wrapper.lib' tt

simulator lang=spectre

parameters Vgs = 1
parameters Vds = 0 
parameters wnmos = 50e-9

xM1 d g s b mosn l=4.5e-08 w=wnmos 

Vbulk   ( b 0 ) vsource type=dc dc=0
Vsource ( s 0 ) vsource type=dc dc=0
Vgate   ( g 0 ) vsource type=dc dc=Vgs
Vdrain  ( d 0 ) vsource type=dc dc=Vds


// sweep Vds for the given values of w
swp sweep param=wnmos values=[ 5e-08 6e-08 7e-08 8e-08 9e-08 1e-07 1.1e-07 1.2e-07 1.3e-07 1.4e-07 1.5e-07 1.6e-07 1.7e-07 1.8e-07 1.9e-07 2e-07 2.1e-07 2.2e-07 2.3e-07 2.4e-07 2.5e-07 2.6e-07 2.7e-07 2.8e-07 2.9e-07 3e-07 ] {
mysweep dc param=Vds values=[ 0 0.01 0.02 0.03 0.04 0.05 0.06 0.07 0.08 0.09 0.1 0.11 0.12 0.13 0.14 0.15 0.16 0.17 0.18 0.19 0.2 0.21 0.22 0.23 0.24 0.25 0.26 0.27 0.28 0.29 0.3 0.31 0.32 0.33 0.34 0.35 0.36 0.37 0.38 0.39 0.4 0.41 0.42 0.43 0.44 0.45 0.46 0.47 0.48 0.49 0.5 0.51 0.52 0.53 0.54 0.55 0.56 0.57 0.58 0.59 0.6 0.61 0.62 0.63 0.64 0.65 0.66 0.67 0.68 0.69 0.7 0.71 0.72 0.73 0.74 0.75 0.76 0.77 0.78 0.79 0.8 0.81 0.82 0.83 0.84 0.85 0.86 0.87 0.88 0.89 0.9 0.91 0.92 0.93 0.94 0.95 0.96 0.97 0.98 0.99 1 ]
}